US06608215B2
DIBAL-H:
diisobutoxyaluminum hydride, pTsOH: p-toluenesulphonic acid, MeOH: methanol, CITBS: chloro-dimethyl-t-butyl silane, PCC: pyridium chlorochrome, W-K: Wolff-Kishiner reduction.

reactant | diisobutoxyaluminum hydride | [H-].C(C(C)C)O[Al+]OCC(C)C
reactant | pTsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | chloro-dimethyl-t-butyl silane | Cl[Si](C(C)(C)C)(C)C | C6H15ClSi
reactant | PCC | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | pyridium | C=1C=CC(=CC1)N=NC=2C=CC(=NC2N)N.Cl
solvent | methanol | CO | CH4O
product | DIBAL-H | CC(C)C[AlH]CC(C)C | InChI=1S/2C4H9.Al.H/c2*1-4(2)3;;/h2*4H,1H2,2-3H3;;
